US06946489B2
c) 2′-Methanesulfonylbiphenyl-4-ylamine
A solution of 17.0 g (61.3 mmol) of 2-methanesulfonyl-4′-nitrobiphenyl in 170 ml of THF is treated with 3.5 g of THF-moist Raney nickel and hydrogenated at room temperature and normal pressure until the completion of hydrogen absorption (18 hours). The catalyst is filtered off and the filtrate is evaporated. A colourless solid is obtained; FAB 248

reactant | 2-methanesulfonyl-4′-nitrobiphenyl | 61.3 mmol, 17.0 g | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO4S
solvent | THF | 170 ml | C1CCOC1 | C4H8O
solvent | THF | 3.5 g | C1CCOC1 | C4H8O
product | 2′-Methanesulfonylbiphenyl-4-ylamine | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N | C13H13NO2S
